US04022777
Two parts of 6-chloro-2-ethyl-1H-imidazo[4,5-b]quinoxaline was combined with two parts of perchloromethyl mercaptan in sixty parts of tetrahydrofuran. One part of triethylamine was added slowly dropwise at 30° over a one-hour period. The mixture was poured into water and crude product was collected. The material was recrystallized from a chloroform:hexane mixture to give 1 part of 6-chloro-2-ethyl-1-trichloromethanesulfenyl-1H-imidazo[4,5-b]quinoxaline, m.p. 250° (dec.).

reactant | 6-chloro-2-ethyl-1H-imidazo[4,5-b]quinoxaline | ClC=1C=C2N=C3C(=NC2=CC1)NC(=N3)CC | C11H9ClN4
reactant | perchloromethyl mercaptan | ClC(Cl)(Cl)S | CHCl3S
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | 6-chloro-2-ethyl-1-trichloromethanesulfenyl-1H-imidazo[4,5-b]quinoxaline | ClC=1C=C2N=C3C(=NC2=CC1)N(C(=N3)CC)SC(Cl)(Cl)Cl | C12H8Cl4N4S
